US04338333
N-[2-(3-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(4-hydroxy-3-hydroxymethylphenyl) ethanamine
The compound was prepared as in Example 1 from 1-(3-carbomethoxymethoxyphenyl) propan-2-one (1.82 g) and 2-hydroxy-2-(4-hydroxy-3-hydroxymethylphenyl) ethanamine (1.5 g) and crystallised from benzene m.p. 60°-64° as a 42:58 mixture of diastereoisomers.

reactant | 1-(3-carbomethoxymethoxyphenyl) propan-2-one | 1.82 g | C(=O)(OC)COC=1C=C(C=CC1)CC(C)=O | C12H14O4
reactant | 2-hydroxy-2-(4-hydroxy-3-hydroxymethylphenyl) ethanamine | 1.5 g | OC(CN)C1=CC(=C(C=C1)O)CO | C9H13NO3
product | N-[2-(3-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(4-hydroxy-3-hydroxymethylphenyl) ethanamine | C(=O)(OC)COC=1C=C(C=CC1)CC(C)NCC(C1=CC(=C(C=C1)O)CO)O | C21H27NO6
